US07795262B2
Step 2. Preparation of 6-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
To a suspension of 6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromate (19.51 g, 85.5 mmol) in DCM (300 ml) is added TEA (28.6 ml, 205 mmol, 2.4 eq). The reaction mixture is stirred at rt for 30 min, and then cooled to 0° C., followed by the addition of di-tert-butyl dicarbonate (20.53 g, 94.05 mmol, 1.1 eq.). The reaction mixture is stirred at rt overnight. Water (200 ml) is added to quench the reaction. The organic layer is collected, washed with water and brine, and dried over sodium sulfate. Concentration and purification through silica gel chromatography (hexane/EtOAc 4:1) provides the title compound. MS (+VE) m/z 250.1 (M++1).

reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline | 85.5 mmol, 19.51 g | OC=1C=C2CCNCC2=CC1 | C9H11NO
reactant | di-tert-butyl dicarbonate | 94.05 mmol, 20.53 g, 1.1 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 200 ml | O | H2O
solvent | DCM | 300 ml | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)O | C14H19NO3
